**********
* Littelfuse, LP
* TVS Diode SPICE Models
* SMCJxxxA Family
*
* T. Chenoski
* Irving Technical Center
*
* v2 04/23/08
*
**********
**********
.SUBCKT Littelfuse_TVS     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.013meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0104 N=1.5 IBV=10m BV=6.46 CJO=900p)
.ENDS

.SUBCKT SMCJ5.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.013meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0104 N=1.5 IBV=10m BV=6.46 CJO=900p)
.ENDS

.SUBCKT SMCJ6.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.015meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0168 N=1.5 IBV=10m BV=6.74 CJO=900p)
.ENDS

.SUBCKT SMCJ6.5A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.026meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0201 N=1.5 IBV=10m BV=7.29 CJO=900p)
.ENDS

.SUBCKT SMCJ7.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.070meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0227 N=1.5 IBV=10m BV=7.86 CJO=900p)
.ENDS

.SUBCKT SMCJ7.5A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.150meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0266 N=1.5 IBV=10m BV=8.41 CJO=900p)
.ENDS

.SUBCKT SMCJ8.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.320meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0285 N=1.5 IBV=10m BV=8.98 CJO=900p)
.ENDS

.SUBCKT SMCJ8.5A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   0.850meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0316 N=1.5 IBV=10m BV=9.53 CJO=900p)
.ENDS

.SUBCKT SMCJ9.0A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   1.800meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0373 N=1.5 IBV=10m BV=10.10 CJO=900p)
.ENDS

.SUBCKT SMCJ10A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   4meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0446 N=1.5 IBV=10m BV=11.21 CJO=900p)
.ENDS

.SUBCKT SMCJ11A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   22meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0469 N=1.5 IBV=10m BV=12.32 CJO=900p)
.ENDS

.SUBCKT SMCJ12A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   24meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0567 N=1.5 IBV=10m BV=13.43 CJO=900p)
.ENDS

.SUBCKT SMCJ13A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   26meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0657 N=1.5 IBV=10m BV=14.54 CJO=900p)
.ENDS

.SUBCKT SMCJ14A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   28meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0754 N=1.5 IBV=10m BV=15.76 CJO=900p)
.ENDS

.SUBCKT SMCJ15A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   30meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0782 N=1.5 IBV=10m BV=16.87 CJO=900p)
.ENDS

.SUBCKT SMCJ16A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   32meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0887 N=1.5 IBV=10m BV=17.98 CJO=900p)
.ENDS

.SUBCKT SMCJ17A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   34meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.0998 N=1.5 IBV=10m BV=19.09 CJO=900p)
.ENDS

.SUBCKT SMCJ18A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   36meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1117 N=1.5 IBV=10m BV=20.20 CJO=900p)
.ENDS

.SUBCKT SMCJ20A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   40meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1374 N=1.5 IBV=10m BV=22.42 CJO=900p)
.ENDS

.SUBCKT SMCJ22A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   44meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1628 N=1.5 IBV=10m BV=24.64 CJO=900p)
.ENDS

.SUBCKT SMCJ24A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   48meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.1965 N=1.5 IBV=10m BV=26.97 CJO=900p)
.ENDS

.SUBCKT SMCJ26A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   52meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.2298 N=1.5 IBV=10m BV=29.19 CJO=900p)
.ENDS

.SUBCKT SMCJ28A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   56meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.2695 N=1.5 IBV=10m BV=31.41 CJO=900p)
.ENDS

.SUBCKT SMCJ30A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   60meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.3016 N=1.5 IBV=10m BV=33.63 CJO=900p)
.ENDS

.SUBCKT SMCJ33A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   66meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.3640 N=1.5 IBV=10m BV=37.07 CJO=900p)
.ENDS

.SUBCKT SMCJ36A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   72meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.4322 N=1.5 IBV=10m BV=40.40 CJO=900p)
.ENDS

.SUBCKT SMCJ40A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   80meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.5337 N=1.5 IBV=10m BV=44.84 CJO=900p)
.ENDS

.SUBCKT SMCJ43A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   86meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.6152 N=1.5 IBV=10m BV=48.28 CJO=900p)
.ENDS

.SUBCKT SMCJ45A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   90meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.6828 N=1.5 IBV=10m BV=50.50 CJO=900p)
.ENDS

.SUBCKT SMCJ48A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   96meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.7680 N=1.5 IBV=10m BV=53.83 CJO=900p)
.ENDS

.SUBCKT SMCJ51A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   102meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.8742 N=1.5 IBV=10m BV=57.27 CJO=900p)
.ENDS

.SUBCKT SMCJ54A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   108meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=0.9679 N=1.5 IBV=10m BV=60.60 CJO=900p)
.ENDS

.SUBCKT SMCJ58A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   116meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.1230 N=1.5 IBV=10m BV=65.04 CJO=900p)
.ENDS

.SUBCKT SMCJ60A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   120meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.1994 N=1.5 IBV=10m BV=67.37 CJO=900p)
.ENDS

.SUBCKT SMCJ64A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   128meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.3452 N=1.5 IBV=10m BV=71.81 CJO=900p)
.ENDS

.SUBCKT SMCJ70A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   140meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.6368 N=1.5 IBV=10m BV=78.58 CJO=900p)
.ENDS

.SUBCKT SMCJ75A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   150meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=1.8806 N=1.5 IBV=10m BV=84.13 CJO=900p)
.ENDS

.SUBCKT SMCJ78A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   156meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=2.0445 N=1.5 IBV=10m BV=87.57 CJO=900p)
.ENDS

.SUBCKT SMCJ85A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   170meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=2.3918 N=1.5 IBV=10m BV=95.34 CJO=900p)
.ENDS

.SUBCKT SMCJ90A      1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   180meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=2.7864 N=1.5 IBV=10m BV=101.00 CJO=900p)
.ENDS

.SUBCKT SMCJ100A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   200meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=3.4194 N=1.5 IBV=10m BV=112.11 CJO=900p)
.ENDS

.SUBCKT SMCJ110A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   220meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=3.9941 N=1.5 IBV=10m BV=123.22 CJO=900p)
.ENDS

.SUBCKT SMCJ120A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   240meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=4.7500 N=1.5 IBV=10m BV=134.33 CJO=900p)
.ENDS

.SUBCKT SMCJ130A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   260meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=5.5764 N=1.5 IBV=10m BV=145.44 CJO=1065p)
.ENDS

.SUBCKT SMCJ150A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   300meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=7.6048 N=1.5 IBV=10m BV=168.67 CJO=1065p)
.ENDS

.SUBCKT SMCJ160A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   320meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=8.6638 N=1.5 IBV=10m BV=179.78 CJO=1065p)
.ENDS

.SUBCKT SMCJ170A     1   2
*       TERMINALS:   A   K
Done    1            2   Dtvs
Rleak   1            2   340meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=9.7000 N=1.5 IBV=10m BV=190.89 CJO=1065p)
.ENDS

.SUBCKT SMCJ180A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   360meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=5.5196 N=1.5 IBV=10m BV=101.51 CJO=900p)
.ENDS

.SUBCKT SMCJ200A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   400meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=6.6739 N=1.5 IBV=10m BV=113.12 CJO=900p)
.ENDS

.SUBCKT SMCJ220A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   440meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=8.0476 N=1.5 IBV=10m BV=124.23 CJO=900p)
.ENDS

.SUBCKT SMCJ250A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   500meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=10.5203 N=1.5 IBV=10m BV=140.90 CJO=900p)
.ENDS

.SUBCKT SMCJ300A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   600meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=15.0323 N=1.5 IBV=10m BV=169.18 CJO=900p)
.ENDS

.SUBCKT SMCJ350A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   700meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=20.8750 N=1.5 IBV=10m BV=197.46 CJO=900p)
.ENDS

.SUBCKT SMCJ400A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   800meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=26.9348 N=1.5 IBV=10m BV=225.74 CJO=900p)
.ENDS

.SUBCKT SMCJ440A     1   2
*       TERMINALS:   A   K
Done    1            3   Dtvs
Dtwo    3            2   Dtvs
Rleak   1            2   880meg
.MODEL  Dtvs         D   (IS=1.0e-5 RS=32.4167 N=1.5 IBV=10m BV=248.46 CJO=900p)
.ENDS
